US04542158
A mixture of 2.76 g salicylic acid, 2.02 g triethylamine and 3.5 gm 1-chloroethyl ethyl carbonate in 25 ml of toluene is refluxed for three hours. The reaction mixture is cooled and 25 ml of ether and 25 ml of water added. The organic layer is separated, washed 2× with 25 ml water, dried through sodium sulfate and concentrated in vacuo. The residue (3.88 g) is chromatographed on 200 g silica gel. Elution with 25% methylene chloride in hexane gives 1-(ethoxycarbonyloxy)ethyl salicylate which is directly used in the next step.

reactant | salicylic acid | 2.76 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | 1-chloroethyl ethyl carbonate | 3.5 gm | C(OC(C)Cl)(OCC)=O | C5H9ClO3
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 ml | O | H2O
product | 1-(ethoxycarbonyloxy)ethyl salicylate | C(C=1C(O)=CC=CC1)(=O)OC(C)OC(=O)OCC | C12H14O6
